US04639833
To a reaction vessel were added 2500 g of diphenylmethane and 40 g of aluminum chloride and reaction was carried out for 2 hours at room temperature with further adding 600 g of benzyl chloride with stirring. After the reaction, the catalyst was deactivated and 1300 g of a dibenzylbenzene isomer mixture (Composition I) was obtained by reduced pressure distillation.

reactant | diphenylmethane | 2500 g | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | benzyl chloride | 600 g | C(C1=CC=CC=C1)Cl | C7H7Cl
catalyst | aluminum chloride | 40 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | dibenzylbenzene | 1300 g | C(C1=CC=CC=C1)C1=C(C=CC=C1)CC1=CC=CC=C1 | C20H18
